US08124636B2
Pd—C (10%, 0.5 g) was added to a solution of (S)-4,4-difluoro-2-(5-hydroxy-adamantan-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (1.2 g) in ethanol (50 mL) and the reaction mixture was hydrogenated (1 atm pressure) under stirring condition for 10 h. Reaction was monitored by TLC. After completion, reaction mixture was filtrated through Celite®. The filtrate was concentrated under reduced pressure using a rotary evaporator to give 0.8 g (93%) of the desired (S)-4,4-difluoro-pyrrolidine-2-carboxylic acid (5-hydroxy-adamantan-2-yl)-amide.

reactant | (S)-4,4-difluoro-2-(5-hydroxy-adamantan-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 1.2 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC(C1)(F)F)C(NC1C2CC3CC(CC1C3)(C2)O)=O | C23H28F2N2O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | (S)-4,4-difluoro-pyrrolidine-2-carboxylic acid (5-hydroxy-adamantan-2-yl)-amide | 0.8 g, 93% | OC12CC3C(C(CC(C1)C3)C2)NC(=O)[C@H]2NCC(C2)(F)F | C15H22F2N2O2
